US05424444
23b. CBZ-L-prolinal
Following the method of Leanna et al. (M. Robert Leanna, Thomas J. Sowin, Howard E. Morton, Tetrahedron Lett., 1992, 33(35), 5029-5032), carbobenzyloxy-L-prolinol (9.23 g, 39 mmole) in toluene (100 mL) at 0° C. was added NaBr (Aldrich, 4.01 g, 40 mmole) in water (45 mL) followed by 2,2,6,6-tetramethyl-1-piperidinyloxy free radical (TEMPO reagent, Aldrich, 0.05 g, 0.32 mmole). To this vigorously-stirred mixture was added a mixture of Na2CO3 (11.16 g, 132 mmole)in water (50 mL) and aqueous NaOCl (0.7M, 65 mL, 46 mmole) dropwise over 30 minutes. After stirring 30 minutes at 0° C. the mixture was extracted with ethyl acetate (2×250 mL). The combined organics were washed with Kl 5% KHSO4 (1×50 mL), then aqueous Na2S2O3 (1×100 mL), then pH 7 phosphate buffer (1×100 mL), then brine (1×100 mL) and dried (Na2SO4). Filtration and evaporation of solvents left carbobenzyloxy-L-prolinal (5.55 g) as an oil.

reactant | carbobenzyloxy-L-prolinol | 39 mmole, 9.23 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](CO)CCC1 | C13H17NO3
reactant | NaBr | 40 mmole, 4.01 g | [Na+].[Br-]
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | Na2CO3 | 132 mmole, 11.16 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOCl | 46 mmole, 0.7M, 65 mL | [O-]Cl.[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 45 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | CBZ-L-prolinal | C(=O)(OCC1=CC=CC=C1)N1[C@H](C=O)CCC1 | C13H15NO3
